US04049717
Preparation of 1,2,3,4-Tetrahydro-4-hydroxy-1-naphthylurea (cis and trans isomeric mixture)
To a stirred solution of 4.6 g. of 1,2,3,4-tetrahydro-4-oxo-1-naphthylurea in 230 ml. of ethanol 0.85 g. of sodium borohydride is added. The reaction mixture is stirred for about 5 hours and after standing overnight 50 ml. water is added while stirring. The mixture is then evaporated in vacuo to remove the solvent. Water (50 ml.) is added, then glacial acetic acid is added, until the foaming caused by the acid ceases. The solution is evaporated to dryness in vacuo, alcohol is added and the whole evaporated to dryness in vacuo. Then 30 ml. of ethanol is added to the residue and the mixture stirred and filtered. The collected insoluble solid is air dried. This solid is heated with 300 ml. of acetone and filtered. The filtrate is concentrated in vacuo to afford 0.55 g. of the title compound, melting point 170°- 176° C. On further work-up of the acetone mother liquor, 0.2 g. of the title compound, melting point 169°-174° C., is recovered.

reactant | 1,2,3,4-tetrahydro-4-oxo-1-naphthylurea | O=C1CCC(C2=CC=CC=C12)NC(=O)N | C11H12N2O2
reactant | ethanol | 0.85 g | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 1,2,3,4-Tetrahydro-4-hydroxy-1-naphthylurea | OC1CCC(C2=CC=CC=C12)NC(=O)N | C11H14N2O2
